US08022062B2
6-(5-tert-Butylcarbamoyl-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 375, using 3-tert-butoxycarbonyl-6-(5-carboxy-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and tert-butylamine to give, after deprotection by the General Procedure 14, the title compound as an off-white solid. MS (APCI+) m/z: 404 (M+H)+.

reactant | 3-tert-butoxycarbonyl-6-(5-carboxy-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)C(=O)O | C22H25ClN2O4S
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 6-(5-tert-Butylcarbamoyl-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.C(C)(C)(C)NC(=O)C=1C=CC(=NC1)CSC1=C(C=CC=2CCNCCC21)Cl | InChI=1S/C21H26ClN3OS.ClH/c1-21(2,3)25-20(26)15-4-6-16(24-12-15)13-27-19-17-9-11-23-10-8-14(17)5-7-18(19)22;/h4-7,12,23H,8-11,13H2,1-3H3,(H,25,26);1H
